US08232312B2
[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-4-yl)-amino]-acetic acid
300 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-4-yl)-amino]-acetate are dissolved in 4 ml of a 4 N solution of HCl in dioxane. The mixture is stirred overnight at RT and the solvents are then eliminated in vacuo. The residue is extracted from dichloromethane.

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-4-yl)-amino]-acetate | 300 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C1=C2CCN(C2=CC=C1)C(NC)=O)CC(=O)OC(C)(C)C | C22H25Cl2N3O5S
solvent | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-4-yl)-amino]-acetic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C1=C2CCN(C2=CC=C1)C(NC)=O)CC(=O)O | C18H17Cl2N3O5S
